### PR TITLE
[Merged by Bors] - chore(NumberTheory/LegendreSymbol/QuadraticChar): golf `FiniteField.isSquare_odd_prime_iff` using `simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>FiniteField.isSquare_odd_prime_iff</code>: 61 ms before, 139 ms after </summary>

### Trace profiling of `FiniteField.isSquare_odd_prime_iff` before PR 30939
```diff
diff --git a/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean b/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean
index e3281cd154..e042b8dd3f 100644
--- a/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean
+++ b/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean
@@ -94,6 +94,7 @@ theorem quadraticChar_odd_prime [DecidableEq F] (hF : ringChar F ≠ 2) {p : ℕ
     (ne_of_eq_of_ne (ringChar_zmod_n p) hp₂.symm)
   rwa [card p] at h
 
+set_option trace.profiler true in
 /-- An odd prime `p` is a square in `F` iff the quadratic character of `ZMod p` does not
 take the value `-1` on `χ₄#F * #F`. -/
 theorem FiniteField.isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fact p.Prime]
```
```
ℹ [2828/2828] Built Mathlib.NumberTheory.LegendreSymbol.QuadraticChar.GaussSum (2.6s)
info: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean:98:0: [Elab.command] [0.019186] /-- An odd prime `p` is a square in `F` iff the quadratic character of `ZMod p` does not
    take the value `-1` on `χ₄#F * #F`. -/
    theorem isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fact p.Prime] (hp : p ≠ 2) :
        IsSquare (p : F) ↔ quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1 := by
      classical
      by_cases hFp : ringChar F = p
      · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
        simp only [IsSquare.zero, Ne, true_iff, map_mul]
        obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
        have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
        conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
        simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
      · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
        exact hFp
  [Elab.definition.header] [0.018732] FiniteField.isSquare_odd_prime_iff
    [Elab.step] [0.017563] expected type: Prop, term
        IsSquare (p : F) ↔ quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1
      [Elab.step] [0.017558] expected type: Prop, term
          Iff✝ (IsSquare (p : F)) (quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1)
        [Elab.step] [0.015040] expected type: Prop, term
            quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1
          [Elab.step] [0.015035] expected type: Prop, term
              binrel% Ne✝ (quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F)) (-1)
            [Elab.step] [0.014678] expected type: <not-available>, term
                quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F)
              [Elab.step] [0.011485] expected type: ZMod p, term
                  (χ₄ (Fintype.card F) * Fintype.card F)
                [Elab.step] [0.011479] expected type: ZMod p, term
                    χ₄ (Fintype.card F) * Fintype.card F
                  [Elab.step] [0.011471] expected type: ZMod p, term
                      binop% HMul.hMul✝ (χ₄ (Fintype.card F)) (Fintype.card F)
info: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean:98:0: [Elab.command] [0.019295] /-- An odd prime `p` is a square in `F` iff the quadratic character of `ZMod p` does not
    take the value `-1` on `χ₄#F * #F`. -/
    theorem FiniteField.isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fact p.Prime] (hp : p ≠ 2) :
        IsSquare (p : F) ↔ quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1 := by
      classical
      by_cases hFp : ringChar F = p
      · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
        simp only [IsSquare.zero, Ne, true_iff, map_mul]
        obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
        have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
        conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
        simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
      · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
        exact hFp
info: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean:98:0: [Elab.async] [0.062132] elaborating proof of FiniteField.isSquare_odd_prime_iff
  [Elab.definition.value] [0.060946] FiniteField.isSquare_odd_prime_iff
    [Elab.step] [0.060273] classical
          by_cases hFp : ringChar F = p
          · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
            simp only [IsSquare.zero, Ne, true_iff, map_mul]
            obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
            have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
            conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
            simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
          · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
            exact hFp
      [Elab.step] [0.060268] classical
            by_cases hFp : ringChar F = p
            · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
              simp only [IsSquare.zero, Ne, true_iff, map_mul]
              obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
              have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
              conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
              simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
            · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
              exact hFp
        [Elab.step] [0.060263] classical
            by_cases hFp : ringChar F = p
            · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
              simp only [IsSquare.zero, Ne, true_iff, map_mul]
              obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
              have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
              conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
              simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
            · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
              exact hFp
          [Elab.step] [0.060055] 
                by_cases hFp : ringChar F = p
                · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                  simp only [IsSquare.zero, Ne, true_iff, map_mul]
                  obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
                  have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
                  conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                  simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
                · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
                  exact hFp
            [Elab.step] [0.060044] 
                  by_cases hFp : ringChar F = p
                  · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                    simp only [IsSquare.zero, Ne, true_iff, map_mul]
                    obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
                    have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
                    conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                    simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
                  · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _),
                      quadraticChar_odd_prime hF hp]
                    exact hFp
              [Elab.step] [0.055777] ·
                    rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                    simp only [IsSquare.zero, Ne, true_iff, map_mul]
                    obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
                    have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
                    conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                    simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
                [Elab.step] [0.055767] 
                      rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                      simp only [IsSquare.zero, Ne, true_iff, map_mul]
                      obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
                      have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
                      conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                      simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
                  [Elab.step] [0.055761] 
                        rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                        simp only [IsSquare.zero, Ne, true_iff, map_mul]
                        obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
                        have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
                        conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                        simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
                    [Elab.step] [0.013550] simp only [IsSquare.zero, Ne, true_iff, map_mul]
                    [Elab.step] [0.010623] obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
                    [Elab.step] [0.014198] conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                      [Elab.step] [0.013464] enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                        [Elab.step] [0.013460] enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                          [Elab.step] [0.013234] rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
                            [Elab.step] [0.013208] rewrite [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
Build completed successfully (2828 jobs).
```

### Trace profiling of `FiniteField.isSquare_odd_prime_iff` after PR 30939
```diff
diff --git a/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean b/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean
index e3281cd154..1f73e5c70f 100644
--- a/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean
+++ b/Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean
@@ -94,6 +94,7 @@ theorem quadraticChar_odd_prime [DecidableEq F] (hF : ringChar F ≠ 2) {p : ℕ
     (ne_of_eq_of_ne (ringChar_zmod_n p) hp₂.symm)
   rwa [card p] at h
 
+set_option trace.profiler true in
 /-- An odd prime `p` is a square in `F` iff the quadratic character of `ZMod p` does not
 take the value `-1` on `χ₄#F * #F`. -/
 theorem FiniteField.isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fact p.Prime]
@@ -102,11 +103,8 @@ theorem FiniteField.isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fa
   classical
   by_cases hFp : ringChar F = p
   · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
-    simp only [IsSquare.zero, Ne, true_iff, map_mul]
-    obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
-    have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
-    conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
-    simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
+    obtain ⟨⟩ := FiniteField.card F (ringChar F)
+    simp [*]
   · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _),
       quadraticChar_odd_prime hF hp]
     exact hFp
```
```
ℹ [2828/2828] Built Mathlib.NumberTheory.LegendreSymbol.QuadraticChar.GaussSum (1.7s)
info: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean:98:0: [Elab.command] [0.018569] /-- An odd prime `p` is a square in `F` iff the quadratic character of `ZMod p` does not
    take the value `-1` on `χ₄#F * #F`. -/
    theorem isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fact p.Prime] (hp : p ≠ 2) :
        IsSquare (p : F) ↔ quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1 := by
      classical
      by_cases hFp : ringChar F = p
      · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
        obtain ⟨⟩ := FiniteField.card F (ringChar F)
        simp [*]
      · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
        exact hFp
  [Elab.definition.header] [0.018106] FiniteField.isSquare_odd_prime_iff
    [Elab.step] [0.016733] expected type: Prop, term
        IsSquare (p : F) ↔ quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1
      [Elab.step] [0.016726] expected type: Prop, term
          Iff✝ (IsSquare (p : F)) (quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1)
        [Elab.step] [0.014053] expected type: Prop, term
            quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1
          [Elab.step] [0.014046] expected type: Prop, term
              binrel% Ne✝ (quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F)) (-1)
            [Elab.step] [0.013685] expected type: <not-available>, term
                quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F)
              [Elab.step] [0.010420] expected type: ZMod p, term
                  (χ₄ (Fintype.card F) * Fintype.card F)
                [Elab.step] [0.010415] expected type: ZMod p, term
                    χ₄ (Fintype.card F) * Fintype.card F
                  [Elab.step] [0.010409] expected type: ZMod p, term
                      binop% HMul.hMul✝ (χ₄ (Fintype.card F)) (Fintype.card F)
info: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean:98:0: [Elab.command] [0.018685] /-- An odd prime `p` is a square in `F` iff the quadratic character of `ZMod p` does not
    take the value `-1` on `χ₄#F * #F`. -/
    theorem FiniteField.isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fact p.Prime] (hp : p ≠ 2) :
        IsSquare (p : F) ↔ quadraticChar (ZMod p) (χ₄ (Fintype.card F) * Fintype.card F) ≠ -1 := by
      classical
      by_cases hFp : ringChar F = p
      · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
        obtain ⟨⟩ := FiniteField.card F (ringChar F)
        simp [*]
      · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
        exact hFp
info: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean:98:0: [Elab.async] [0.139820] elaborating proof of FiniteField.isSquare_odd_prime_iff
  [Elab.definition.value] [0.138910] FiniteField.isSquare_odd_prime_iff
    [Elab.step] [0.138469] classical
          by_cases hFp : ringChar F = p
          · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
            obtain ⟨⟩ := FiniteField.card F (ringChar F)
            simp [*]
          · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
            exact hFp
      [Elab.step] [0.138464] classical
            by_cases hFp : ringChar F = p
            · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
              obtain ⟨⟩ := FiniteField.card F (ringChar F)
              simp [*]
            · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
              exact hFp
        [Elab.step] [0.138459] classical
            by_cases hFp : ringChar F = p
            · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
              obtain ⟨⟩ := FiniteField.card F (ringChar F)
              simp [*]
            · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
              exact hFp
          [Elab.step] [0.138002] 
                by_cases hFp : ringChar F = p
                · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                  obtain ⟨⟩ := FiniteField.card F (ringChar F)
                  simp [*]
                · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _), quadraticChar_odd_prime hF hp]
                  exact hFp
            [Elab.step] [0.137991] 
                  by_cases hFp : ringChar F = p
                  · rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                    obtain ⟨⟩ := FiniteField.card F (ringChar F)
                    simp [*]
                  · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _),
                      quadraticChar_odd_prime hF hp]
                    exact hFp
              [Elab.step] [0.133856] ·
                    rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                    obtain ⟨⟩ := FiniteField.card F (ringChar F)
                    simp [*]
                [Elab.step] [0.133848] 
                      rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                      obtain ⟨⟩ := FiniteField.card F (ringChar F)
                      simp [*]
                  [Elab.step] [0.133844] 
                        rw [show (p : F) = 0 by rw [← hFp]; exact ringChar.Nat.cast_ringChar]
                        obtain ⟨⟩ := FiniteField.card F (ringChar F)
                        simp [*]
                    [Elab.step] [0.011009] obtain ⟨⟩ := FiniteField.card F (ringChar F)
                    [Elab.step] [0.113860] simp [*]
                      [Meta.synthInstance] [0.013335] ✅️ ExistsAddOfLE F
                      [Meta.synthInstance] [0.037076] ❌️ PosMulMono F
Build completed successfully (2828 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by MichaelStollBayreuth** [comment]
Even though it is a bit slower, this looks to me like a clear win in maintainability.

maintainer merge

File: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean [hunk 1]
```diff
@@ -102,11 +102,8 @@ theorem FiniteField.isSquare_odd_prime_iff (hF : ringChar F ≠ 2) {p : ℕ} [Fa
...
-    simp only [IsSquare.zero, Ne, true_iff, map_mul]
-    obtain ⟨n, _, hc⟩ := FiniteField.card F (ringChar F)
-    have hchar : ringChar F = ringChar (ZMod p) := by rw [hFp]; exact (ringChar_zmod_n p).symm
-    conv => enter [1, 1, 2]; rw [hc, Nat.cast_pow, map_pow, hchar, map_ringChar]
-    simp only [zero_pow n.ne_zero, mul_zero, zero_eq_neg, one_ne_zero, not_false_iff]
+    obtain ⟨⟩ := FiniteField.card F (ringChar F)
+    simp [*]
   · rw [← Iff.not_left (@quadraticChar_neg_one_iff_not_isSquare F _ _ _ _),
       quadraticChar_odd_prime hF hp]
     exact hFp
```
Comment (ocfnash) [inline Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean]: In fact the entire proof can be just:
```lean
  rcases eq_or_ne (ringChar F) p with rfl | hFp
  · obtain ⟨q, hq, hq'⟩ := FiniteField.card F (ringChar F)
    simp [hq']
  · rwa [← Iff.not_left quadraticChar_neg_one_iff_not_isSquare, quadraticChar_odd_prime hF hp]
```

**Review by ocfnash — APPROVED** [review]
Please apply the suggested golf.

File: Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/NumberTheory/LegendreSymbol/QuadraticChar/GaussSum.lean]: Thanks!
